US05723475
Synthesis of 2-benzyl-1-(4-chlorobutyrylamino)-6-methylbenzene (14)
2-benzyl-6-methylaniline and 4-chlorobutyryl choride were used to produce the above compound in the same way as Reference Example 8.

reactant | 2-benzyl-6-methylaniline | C(C1=CC=CC=C1)C1=C(N)C(=CC=C1)C | C14H15N
reactant | 4-chlorobutyryl choride | ClCCCC(=O)Cl | C4H6Cl2O
product | 2-benzyl-1-(4-chlorobutyrylamino)-6-methylbenzene | C(C1=CC=CC=C1)C1=C(C(=CC=C1)C)NC(CCCCl)=O | C18H20ClNO
